US08008414B2
Along with 230 mg (0.055 mmole) of poly(methyl methacrylate) macroinitiator prepared in Example 80, 0.9 mg (0.005 mmol) of 2,2′-azobis(isobutyronitrile), 0.70 g (5.5 mmole) of n-butyl acrylate (same as above) and 1 ml of N,N-dimethylformamide (DMF) were placed into a glove box with the inside air replaced by nitrogen, followed by stirring at 60° C. for 3 hours. After the completion of the reaction, the reaction mixture was dissolved in 5 ml of chloroform, and the solution was then poured into 300 ml of hexane which was being stirred. The resulting polymer precipitate was collected by suction filtration and dried to obtain block copolymer of poly(methyl methacrylate-b-n-butyl acrylate) (yield 97%).

reactant | 2,2′-azobis(isobutyronitrile) | 0.005 mmol, 0.9 mg | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
reactant | n-butyl acrylate | 5.5 mmole, 0.70 g | C(C=C)(=O)OCCCC | C7H12O2
reactant | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
reactant | hexane | 300 ml | CCCCCC | C6H14
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
product | methyl methacrylate b-n-butyl acrylate | yield 97% | C(C(=C)C)(=O)OC.C(C=C)(=O)OC(C)CC | InChI=1S/C7H12O2.C5H8O2/c1-4-6(3)9-7(8)5-2;1-4(2)5(6)7-3/h5-6H,2,4H2,1,3H3;1H2,2-3H3
